US07375113B2
To a solution of 4-[2-(4-{3-[1-carboxy-1-(methyl)ethyl-carbamoyl]propyl}phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1-(2-pivaloyloxyethyl)-1H-indazole (40 mg) in N,N-dimethylformamide (1 mL) were added 1-(2-hydroxyethyl)piperazine (6 mg), 1-hydroxybenzotriazole (6 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (11 mg) and triethylamine (0.016 mL), and the mixture was stirred at 50° C. overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-8/1) to give 4-[2-(4-{3-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)ethylcarbamoyl]propyl}-phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosy loxy)-1-(2-pivaloyloxyethyl)-1H-indazole (22 mg). This material was dissolved in methanol (2 mL). To the solution was added lithium hydroxide monohydrate (8 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added acetic acid (0.1 mL), and the resulting mixture was concentrated under reduced pressure. To the residue was added a saturated aqueous potassium carbonate solution, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent:methanol) to give the title compound (11 mg).

reactant | 4-[2-(4-{3-[1-carboxy-1-(methyl)ethyl-carbamoyl]propyl}phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1-(2-pivaloyloxyethyl)-1H-indazole | 40 mg | C(=O)(O)C(C)(C)NC(=O)CCCC1=CC=C(C=C1)CCC1=C2C(=NN(C2=CC=C1)CCOC(C(C)(C)C)=O)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C56H81N3O15
reactant | 1-(2-hydroxyethyl)piperazine | 6 mg | OCCN1CCNCC1 | C6H14N2O
reactant | 1-hydroxybenzotriazole | 6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.016 mL | C(C)N(CC)CC | C6H15N
product | 4-[2-(4-{3-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)ethylcarbamoyl]propyl}-phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosy loxy)-1-(2-pivaloyloxyethyl)-1H-indazole | 22 mg | OCCN1CCN(CC1)C(=O)C(C)(C)NC(=O)CCCC1=CC=C(C=C1)CCC1=C2C(=NN(C2=CC=C1)CCOC(C(C)(C)C)=O)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C62H93N5O15
